US04732906
A mixture of 5,6-dihydroxy-3-(o-tolyl)-1,2-benzisoxazole (4.7 g), potassium carbonate (12.1 g), methyl dichloroacetate (4.2 g) in N,N-dimethylformamide (40 ml) was stirred at 90°-95° C. for 1.5 hours. After cooling, water (10 ml) was added to the mixture followed by stirring at 80°-90° C. for 10 minutes. After cooling the mixture was extracted with ether, and then the ether layer was washed with water, dried and evaporated to remove the solvent. The residue was dissolved in a potassium bicarbonate aqueous solution, and then ethanol was added to the solution. The resulting precipitate was collected by filtration, washed with ethanol and dried in air to give 3.1 g of 3-(o-tolyl)-1,3-dioxolo [4,5-f]-1,2-benzisoxazole-6-carboxylic acid potassium salt. The resulting potassium salt was dissolved in a small amount of water, and after acidifying it with hydrochloric acid, was extracted with ether. The ether layer was washed with water, dried and evaporated to remove the solvent. The residue was recrystallized from acetonitrile to give 1.9 g of 3-(o-tolyl)-1,3-dioxolo[4,5-f]-1,2-benzisoxazole-6-carboxylic acid. m.p.: 166-170 (decomposition)

reactant | 5,6-dihydroxy-3-(o-tolyl)-1,2-benzisoxazole | 4.7 g | OC=1C(=CC2=C(C(=NO2)C2=C(C=CC=C2)C)C1)O | C14H11NO3
reactant | potassium carbonate | 12.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl dichloroacetate | 4.2 g | ClC(C(=O)OC)Cl | C3H4Cl2O2
reactant | water | 10 ml | O | H2O
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 3-(o-tolyl)-1,3-dioxolo [4,5-f]-1,2-benzisoxazole-6-carboxylic acid potassium salt | 3.1 g | [K+].C1(=C(C=CC=C1)C1=NOC2=C1C=C1C(=C2)OC(O1)C(=O)[O-])C | InChI=1S/C16H11NO5.K/c1-8-4-2-3-5-9(8)14-10-6-12-13(7-11(10)22-17-14)21-16(20-12)15(18)19;/h2-7,16H,1H3,(H,18,19);/q;+1/p-1
